US05166198
d) Diethyl [4-(t-butyldimethylsilyloxy)-3-(phthalimidooxy)butyl]phosphonate
Diethyl azodicarboxylate (4.02 ml, 0.0.26 mol) was added to a solution of diethyl [4-(t-butyldimethylsilyloxy)-3-hydroxybutyl]phosphonate (7.9 g, 0.023 mol), N-hydroxyphthalimide (3.79 g, 0.023 mol) and triphenylphosphine (6.70 g, 0.026 mol) in dry tetrahydrofuran (100 ml). The mixture was stirred overnight at ambient temperature under a nitrogen atmosphere. The solvent was removed in vacuo and the residue dissolved in diethyl ether and kept at 4° C. for 24 hours. The mixture was filtered and the filtrate evaporated to dryness. The residue was chromatographed on silica gel (hexane-acetone 3:1 as eluant) to give the title compound as a pale yellow oil (7.9 g, 70%). IR:υmax (film) 2990, 2960, 2940, 2860, 1790, 1740, 1605, 1420, 1370, 1250, 1190, 1160, 1120, 1060, 1030, 970, 880, 840, 790, 700 cm-1. 1H NMR: δH (CDCl3) 0.0 (6H, s, SiMe2), 0.8 (9H, s, SiBut), 1.3 (6H, t, J=7Hz, (OCH2CH3)2), 1.78-2.4 (4H, m, CH2CH2P), 3.6-4.1 (7H, m, OCH2CH+(OCH2CH3)2), 7.65-7.95 (4H, m, aromatic H).

reactant | Diethyl azodicarboxylate | 4.02 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diethyl [4-(t-butyldimethylsilyloxy)-3-hydroxybutyl]phosphonate | 0.023 mol, 7.9 g | [Si](C)(C)(C(C)(C)C)OCC(CCP(OCC)(OCC)=O)O | C14H33O5PSi
reactant | N-hydroxyphthalimide | 0.023 mol, 3.79 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 0.026 mol, 6.70 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Diethyl [4-(t-butyldimethylsilyloxy)-3-(phthalimidooxy)butyl]phosphonate | 7.9 g, 70% | [Si](C)(C)(C(C)(C)C)OCC(CCP(OCC)(OCC)=O)ON1C(C=2C(C1=O)=CC=CC2)=O | C22H36NO7PSi
